US05883106
C. 4-[3-(Benzyloxy)-5-fluorophenyl]-4-(1-hydroxyethyl)-3,4,5,6-tetrahydro-2H-pyran
To a stirred solution of 4-[3-(benzyloxy)-5-fluorophenyl]-4-formyl-3,4,5,6-tetrahydro-2H-pyran (1.08 g, 3.4 mmol) in THF (16 ml) at room temperature under a nitrogen atmosphere was added on 0.96M solution of methyl magnesium bromide (5.3 ml, 5.1 mmol) in a dropwise manner. The mixture was stirred overnight, diluted with saturated aqueous ammonium chloride (40 ml) and extracted with dichloromethane (2×40 ml). The combined organic layers were washed with water (40 ml) and brine (40 ml), dried (magnesium sulfate) and concentrated to dryness. Purification by column chromatography (silica-gel, 150 g, ethyl acetate in n-hexane as an eluent increasing the amount of ethyl acetate from 40% to 60%) afforded the titled compound as a colorless liquid (0.71 g, 63%).

reactant | 4-[3-(benzyloxy)-5-fluorophenyl]-4-formyl-3,4,5,6-tetrahydro-2H-pyran | 3.4 mmol, 1.08 g | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)F)C1(CCOCC1)C=O | C19H19FO3
reactant | methyl magnesium bromide | 5.1 mmol, 5.3 ml | C[Mg]Br
solvent | THF | 16 ml | C1CCOC1 | C4H8O
solvent | ammonium chloride | 40 ml | [Cl-].[NH4+]
product | 4-[3-(Benzyloxy)-5-fluorophenyl]-4-(1-hydroxyethyl)-3,4,5,6-tetrahydro-2H-pyran | 0.71 g, 63% | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)F)C1(CCOCC1)C(C)O | C20H23FO3
